Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
back pain/spasm  

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female who complains of Back pain. Patient states 
that she was at work this morning as a ___, felt sudden 
spasm in her lower back and has had continued low back pain 
since that time. Located in the ___ her back with some 
radiation down R leg. Has had back pain in the past but never 
this bad. No fevers, chills, nausea, vomiting, abd pain, urinary 
symptoms. No loss of bowel/bladder control. No IVDU. No hx of 
kidney stones.  

 
Past Medical History:
none
 
Social History:
___
Family History:
Significant for her sister who has developed DVT  
during her pregnancy. She also reports that her mother tells her 
 
that her father's side of the family with whom they have no  
contact at present is noted to have prothrombin deficiency 

 
Physical Exam:
Physical Exam on admission:
Vitals- 97.5 134/68 74 18 100RA  
General- Alert, oriented, visibly in pain  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Back- no appreciable spasm, ttp over L5 level bilaterally, no 
spinous process tenderness. Located 4-5cm lateral to spine on 
both sides. Unable to perform straight leg raise ___ pain.  
Neuro- CNs2-12 intact, motor function grossly normal  

Physical Exam on discharge:
Notable for spinous process pain at the level of L4-L5 with 
right paraspinal muscle tenderness.
 
Pertinent Results:
Labs on admission:
___ 04:00PM BLOOD WBC-11.7*# RBC-5.16 Hgb-14.7 Hct-44.5 
MCV-86 MCH-28.5 MCHC-33.1 RDW-12.4 Plt ___
___ 04:00PM BLOOD Neuts-68.9 ___ Monos-4.5 Eos-0.5 
Baso-1.5
___ 04:00PM BLOOD Glucose-116* UreaN-14 Creat-0.6 Na-137 
K-4.3 Cl-101 HCO3-22 AnGap-18

No imaging
 
Brief Hospital Course:
Ms. ___ is a ___ yo female who presented with back 
pain/spasms.
  
#Back pain/spasm: Likely ___ acute nerve root and muscle 
irritation.  No alarm signs or red flags on exam.  Pain was 
controlled with valium, percovet, naproxen and lidocaine patch.  
On HD#2, patient had no pain while resting in bed, but still had 
severe muscle spasm with any attempt of ambulation.  On HD#3 she 
was able to ambulate and shower with manageable pain control.  
She was instructed on the importance of mobility and that she 
should expect the pain to continue to improve over the next few 
days to weeks.  She was scheduled for f/u with Dr. ___ on 
___.  She will be given enough valium and percocet for two 
weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Diazepam 2 mg PO Q4H:PRN back spasm 
RX *diazepam 2 mg 1 tablet by mouth every fours Disp #*84 Tablet 
Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % (700 mg/patch) please apply one patch every 12 
hours Disp #*14 Transdermal Patch Refills:*0
4. Naproxen 500 mg PO Q12H 
RX *naproxen [Naprosyn] 500 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0
5. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen [Endocet] 5 mg-325 mg 1 tablet(s) by 
mouth every four hours Disp #*84 Tablet Refills:*0
6. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
     It was a pleasure taking care of you during your 
hospitalization at ___.  You 
were admitted with back pain and spasms.  There were no signs of 
serious problems causing your pain.  We treated your pain with a 
number of different medications.  You are now able to walk and 
are safe to go home.  We expect the pain to continue to improve 
over the next few days to weeks and we expect you to slowly be 
able to decrease the amount of medications that you are taking.  
We have also scheduled a follow up appointment.  We wish you 
luck in your continued recovery.
 
Followup Instructions:
___